US08124760B2
Preparation of 5-bromomethyl-7-(3-chloro-5-(trifluoromethyl)pyridin-2-yl)-[1,2,4]triazolo[1,5-a]pyrimidine (compound No. 60)
312 mg of N-bromosuccinimide and 13 mg of azobisisobutylonitrile (AIBN) were added to a solution having 500 mg of 7-(3-chloro-5-(trifluoromethyl)pyridin-2-yl)-5-methyl-[1,2,4]triazolo[1,5-a]pyrimidine dissolved in 3 mL of carbon tetrachloride, followed by stirring overnight under reflux with heating. After completion of the reaction, water was added to the reaction liquid, followed by extraction with ethyl acetate, the organic layer was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=7/3) to obtain 86 mg of the desired product.

reactant | N-bromosuccinimide | 312 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutylonitrile | 13 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | 7-(3-chloro-5-(trifluoromethyl)pyridin-2-yl)-5-methyl-[1,2,4]triazolo[1,5-a]pyrimidine | 500 mg | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=NC=2N1N=CN2)C | C12H7ClF3N5
reactant | water | O | H2O
solvent | carbon tetrachloride | 3 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-bromomethyl-7-(3-chloro-5-(trifluoromethyl)pyridin-2-yl)-[1,2,4]triazolo[1,5-a]pyrimidine | 86 mg | BrCC1=NC=2N(C(=C1)C1=NC=C(C=C1Cl)C(F)(F)F)N=CN2 | C12H6BrClF3N5
